US20010027200A1
2-Fluoro-5-nitrotoluene (5.08 g) and 3-chloro-5-hydroxypyridine (4.25 g) were combined at 80° C. using a method similar to that of Example 21.2 to provide 7.1 g of 2-(3-chloro-5-pyridyloxy)-5-nitrotoluene. mp 80-82° C.

reactant | 2-Fluoro-5-nitrotoluene | 5.08 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 3-chloro-5-hydroxypyridine | 4.25 g | ClC=1C=NC=C(C1)O | C5H4ClNO
product | 2-(3-chloro-5-pyridyloxy)-5-nitrotoluene | 7.1 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C | C12H9ClN2O3
